US03940444
4,8,11-trimethyldodeca-3,5,10-trien-2-one
Following the process of this example, each of 11-methoxy-3,7,10,11-tetramethyldodeca-2,4-dienoic acid and 3,7,9,10-tetramethylundeca-2,4,10-trienoic acid is reacted with ethyl lithium to prepare 13-methoxy-5,9,12,13-tetramethyltetradeca-3,6-dien-3-one and 5,9,11,12-tetramethyltrideca-4,6,12-trien-3-one, respectively.

reactant | 11-methoxy-3,7,10,11-tetramethyldodeca-2,4-dienoic acid | COC(C(CCC(CC=CC(=CC(=O)O)C)C)C)(C)C | C17H30O3
reactant | 3,7,9,10-tetramethylundeca-2,4,10-trienoic acid | CC(=CC(=O)O)C=CCC(CC(C(=C)C)C)C | C15H24O2
reactant | ethyl lithium | C(C)[Li]
reactant | 5,9,11,12-tetramethyltrideca-4,6,12-trien-3-one | CC(=CC(CC)=O)C=CCC(CC(C(=C)C)C)C | C17H28O
product | 4,8,11-trimethyldodeca-3,5,10-trien-2-one | CC(=CC(C)=O)C=CCC(CC=C(C)C)C | C15H24O
